US07148226B2
6-Cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-6-[2-(4-hydroxy-3-methoxymethyl-phenyl)-ethyl]-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example A(97) where 6-Cyclopentyl-6-[2-(4-hydroxy-3-methoxymethyl-phenyl)-ethyl]-dihydro-pyran-2,4-dione (Example A(194)) was substituted in place of 2-{4-[2-(2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile and 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was substituted in place of 2-ethyl-4-methyl-1H-imidazole-5-carbaldehyde in that example. 1H NMR (400 MHz, DMSO-d6): δ 1.5–2.0 (m, 11H) 2.46–2.75 (m, 11H), 3.25 (s, 3H), 3.73 (d, J=16 Hz, 1H), 3.80 (d, J=16 Hz, 1H), 4.32 (s, 2H), 6.70 (d, J=8 Hz, 1H), 6.94–7.04 (m, 3H), 9.20 (s, 1H). Anal. Calcd. For C28H34N4O5.1.5H2O: C, 63.02; H, 6.99; N, 10.50. Found: C, 63.92; H, 6.74; N, 10.42. MS (ESI): 507.2 (M+H)+.

reactant | 6-Cyclopentyl-6-[2-(4-hydroxy-3-methoxymethyl-phenyl)-ethyl]-dihydro-pyran-2,4-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C=C1)O)COC | C20H26O5
reactant | 2-{4-[2-(2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile | C1(CCCC1)C1(OC(C=C(C1)O)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C22H26FNO3
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
reactant | 2-ethyl-4-methyl-1H-imidazole-5-carbaldehyde | C(C)C=1NC(=C(N1)C)C=O | C7H10N2O
product | 6-Cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-6-[2-(4-hydroxy-3-methoxymethyl-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2C)C)=N1)O)CCC1=CC(=C(C=C1)O)COC | C28H34N4O5
